US06727249B2
(1R*,2R*,5R*)-8-Benzyl-2-[(2-methoxy-5-trifluoromethoxyphenyl)methoxy]-1-phenyl-8-azabicyclo[3.2.1]octane
(1R*,2R*,5R*)-8-Benzyl-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol (Description 9; 348 mg, 1.19 mmol) was dissolved in THF then sodium hydride (71 mg, 60% in oil, 1.79 mmol) added and the reaction mixture stirred for 10 minutes. 2-methoxy-5-trifluoromethoxybenzyl bromide was added and the reaction mixture stirred at 50° C. for 2 hours. The reaction mixture was poured into water and extracted with ethyl acetate (×3), dried (MgSO4) and concentrated in vacuo to give a yellow oil. This was purified by flash column chromatography [5%-15% ethyl acetate in iso-hexane] to give the title compound. (205 mg, 35%).

reactant | (1R*,2R*,5R*)-8-Benzyl-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 1.19 mmol, 348 mg | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1CC2)O)C2=CC=CC=C2 | C20H23NO
reactant | sodium hydride | 1.79 mmol, 71 mg | [H-].[Na+]
reactant | 2-methoxy-5-trifluoromethoxybenzyl bromide | COC1=C(CBr)C=C(C=C1)OC(F)(F)F | C9H8BrF3O2
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | (1R*,2R*,5R*)-8-Benzyl-2-[(2-methoxy-5-trifluoromethoxyphenyl)methoxy]-1-phenyl-8-azabicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1CC2)OCC2=C(C=CC(=C2)OC(F)(F)F)OC)C2=CC=CC=C2 | C29H30F3NO3
